US07943651B2
N-(2-Amino-1,1-dimethyl-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide
Prepared similarly to Example 1 from 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid and 2-methylalaninamide.

reactant | 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1)(C(F)(F)F)O)(C)C)OC | C29H29F4N3O4
reactant | 2-methylalaninamide | CC(N)(C)C(=O)N | C4H10N2O
product | N-(2-Amino-1,1-dimethyl-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide | NC(C(C)(C)NC(C1=CC(=CC=C1)N1N=CC2=C(C=C(C=C12)C)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O)=O | C33H37F4N5O4
